US07446199B2
189 mg of crude Dimethyl-[3-(1H-pyrrolo[2,3-b]pyridin-5-yl)-prop-2-ynyl]-amine was stirred in 5 ml of DCM with AlCl3 (4 equivalents) for 30 minutes. Two equivalents of (2,3-Difluoro-phenyl)-acetyl chloride were added and the reaction was stirred in a sealed tube overnight. The LC/MS showed the reaction to be complete and was worked-up under standard conditions. Normal phase column chromatography yielded 101 mg of 2-(2,3-Difluoro-phenyl)-1-[5-(3-dimethylamino-prop-1-ynyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-ethanone with a yield over two steps of 33%. LC/MS retention time of 1.83 minutes. M+ 354.17, M− 352.1

reactant | Dimethyl-[3-(1H-pyrrolo[2,3-b]pyridin-5-yl)-prop-2-ynyl]-amine | 189 mg | CN(CC#CC=1C=C2C(=NC1)NC=C2)C | C12H13N3
reactant | AlCl3 | 4 equivalents | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | (2,3-Difluoro-phenyl)-acetyl chloride | Two equivalents | FC1=C(C=CC=C1F)CC(=O)Cl | C8H5ClF2O
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
product | 2-(2,3-Difluoro-phenyl)-1-[5-(3-dimethylamino-prop-1-ynyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-ethanone | 101 mg | FC1=C(C=CC=C1F)CC(=O)C1=CNC2=NC=C(C=C21)C#CCN(C)C | C20H17F2N3O
